US06251926B1
A 1N aqueous saturated solution of sodium hydroxide (5 ml) was added to a solution of methyl E-4-[4-(5-chloroimidazo[1,2-α]pyridin-2-ylmethoxy)benzyloxyimino]-4-phenylbutyrate (400 mg) in tetrahydrofuran (10 ml)-methanol (5 ml) and stirred at room temperature for 1 hour. 1N hydrochloric acid (5.5 ml) was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was recrystallized from ethyl acetate-hexane to obtain E-4-[4-(5-chloroimidazo[1,2-α]pyridin-2-ylmethoxy)benzyloxyimino]-4-phenylbutyric acid (313 mg, yield 78%) as colorless crystals. m.p. 160-161° C.

reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
reactant | methyl E-4-[4-(5-chloroimidazo[1,2-α]pyridin-2-ylmethoxy)benzyloxyimino]-4-phenylbutyrate | 400 mg | ClC1=CC=CC=2N1C=C(N2)COC2=CC=C(CO\N=C(/CCC(=O)OC)\C1=CC=CC=C1)C=C2 | C26H24ClN3O4
reactant | methanol | 5 ml | CO | CH4O
reactant | hydrochloric acid | 1N, 5.5 ml | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | E-4-[4-(5-chloroimidazo[1,2-α]pyridin-2-ylmethoxy)benzyloxyimino]-4-phenylbutyric acid | 313 mg, yield 78% | ClC1=CC=CC=2N1C=C(N2)COC2=CC=C(CO\N=C(/CCC(=O)O)\C1=CC=CC=C1)C=C2 | C25H22ClN3O4
